US04939130
3.4 g (0.0094 mole) of 2-(1-benzylimidazol-2-yl)-1-hydroxyethanediphosphonic acid are dissolved in 40 ml of liquid ammonia and then 1 g of sodium is added gradually, with stirring, in small portions until the blue colour of the solution is maintained for some considerable time. Then 2.35 g of ammonium chloride are added in portions. The ammonia is then removed by evaporation, the residue is taken up in 20 ml of hot water, the solution is filtered and then 10 ml of concentrated hydrochloric acid are added to the filtrate. The precipitated crystals are isolated by filtration and recrystallised from aqueous methanol, to give 2-(imidazol-2-yl)-1-hydroxyethanediphosphonic acid of m.p. 235° C. (dec.).

reactant | 2-(1-benzylimidazol-2-yl)-1-hydroxyethanediphosphonic acid | 0.0094 mole, 3.4 g | C(C1=CC=CC=C1)N1C(=NC=C1)C(C(P(O)(=O)O)O)P(O)(=O)O | C12H16N2O7P2
reactant | sodium | 1 g | [Na] | Na
reactant | ammonium chloride | 2.35 g | [Cl-].[NH4+]
solvent | ammonia | N | H3N
product | 2-(imidazol-2-yl)-1-hydroxyethanediphosphonic acid | N1C(=NC=C1)C(C(P(O)(=O)O)O)P(O)(=O)O | C5H10N2O7P2
